US05700819
To DMSO (15 ml) was added α-chloroacetoanilide (850 mg, 5 mmol), 4,5,7-trifluoro-2-mercaptobenzothiazole (1.1 g, 5 mmol), potassium carbonate (690 mg, 5 mmol) and potassium iodide (50 mg) and the mixture was stirred at room temperature for 4 hours. The resultant reaction mixture was diluted with water, acidified with 7% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried and then evaporated to yield a crude product, which was purified on a silica gel column to give 2-(4,5,7-trifluorobenzothiazol-2-ylthio)-N-phenylacetamide (0.97 g, 52%).

reactant | α-chloroacetoanilide | 5 mmol, 850 mg | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
reactant | 4,5,7-trifluoro-2-mercaptobenzothiazole | 5 mmol, 1.1 g | FC1=C(C=C(C2=C1N=C(S2)S)F)F | C7H2F3NS2
reactant | potassium carbonate | 5 mmol, 690 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2-(4,5,7-trifluorobenzothiazol-2-ylthio)-N-phenylacetamide | 0.97 g, 52% | FC1=C(C=C(C2=C1N=C(S2)SCC(=O)NC2=CC=CC=C2)F)F | C15H9F3N2OS2
